US09227951B2
To a 100-mL round-bottom flask was added 5-formyl-2-thiophenecarboxylic acid (1.85 g, 11.8 mmol), di-tert-butyldicarbonate (5.69 g, 26.06 mmol), and N,N dimethylaminopyridine (0.289 g, 2.37 mmol) and THF (22 mL). The mixture was stirred at rt for 24 h. The solvent was then removed to give a solid residue to which was added EtOAc (50 mL), sat. NaHCO3 solution (10 mL), and water (10 mL). After separation, the aqueous layer was extracted with EtOAc (2×50 mL). The combined organic phases were washed with brine (25 mL), dried (MgSO4), and concentrated. Purification via flash chromatography (hexanes to 10% EtOAc-hexanes) afforded tert-butyl 5-formylthiophene-2-carboxylate (2.51 g, 68%) as a white solid; 1H NMR (CDCl3, 400 MHz) δ 9.96 (s, 1H), 7.75 (d, J=3.8 Hz, 1H), 7.70 (d, J=4.0 Hz, 1H), 1.59 (s, 9H).

reactant | 5-formyl-2-thiophenecarboxylic acid | 11.8 mmol, 1.85 g | C(=O)C1=CC=C(S1)C(=O)O | C6H4O3S
reactant | di-tert-butyldicarbonate | 26.06 mmol, 5.69 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | THF | 22 mL | C1CCOC1 | C4H8O
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | water | 10 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 5-formylthiophene-2-carboxylate | 2.51 g, 68% | C(=O)C1=CC=C(S1)C(=O)OC(C)(C)C | C10H12O3S
